Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
ibuprofen
 
Attending: ___.
 
Chief Complaint:
Shortness of breath

 
Major Surgical or Invasive Procedure:
R PICC Placement (___)
 
History of Present Illness:
___ F h/o metastatic cervical ca diagnosed in ___ s/p 
chemoradiation, HFrEF (EF 45% improved from 25% prior), CAD s/p 
RCA ___ 2 (___), with recent admission for AMS/fever, 
found to have endocarditis recent admission, who represented to 
the ED today after leaving AMA yesterday from ___. The patient 
was found to be crushing Dilaudid in bathroom at ___ prior to 
leaving. She insisted on being brought to the hospital to go to 
___ to see her brother for the "remainder of her life" so she 
was discharged AMA, but was not let on the plane because she was 
too sick. Brought back in today for increasing shortness of 
breath. 

Of note, the patient was admitted to ___ in ___ with 
dyspnea in the setting of MSSA endocarditis (treated with 4 
weeks of vanc) and CHF vs. COPD exacerbation. She was then 
re-admitted in Mid ___ initially to the FICU for sepsis, 
then transferred to ___ due to enterococcus/MSSA 
endocarditis, treated with 4 weeks of Vancomycin. Finally was 
most recently followed on ___ team. During the most recent 
admission, she was admitted for MSSA septicemia w/ perforated 
mitral valve and septic emboli to the brain with course 
complicated by ___, hyponatremia, and CHF exacerbation. Goals of 
care were discussed with the patient and family and she decided 
that she would be happier close to her brother at a nursing home 
in ___. No arrangements had yet been made for this but the 
patient decided she wanted to leave AMA on ___. She was brought 
to the airport as above but denied entrance to the airplane due 
to somnolence. She was brought in from the airport to the ___ 
ED.

Initially in the ED, the patient was found to be very dyspneic 
and tachypnea. She was initiated on BiPap, nebulizers, and 
cefepime. She was also complaining of ongoing abdominal pain so 
a CT A/P was ordered. In the setting of pain and hypoxia a CTPA 
was also ordered. The patient continued to complain of pain in 
her genital area consistent with chronic pain from cervical 
cancer and was given Dilaudid in a saline bag for slower 
administration.

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
ONCOLOGIC HISTORY:
She initially presented to ___ in ___ with heavy 
vaginal
bleeding and was found to have a large mass on pelvic exam. A CT
scan of the abdomen indicated the presence of RP LNs and
increased size of sidewall LN. TVUS indicated an enlarged uterus
that was completely infiltrated by a hyperechoic lesion. A 
biopsy
of the lesion was obtained and also reviewed at ___ confirming
a moderately differentiated invasive squamous cell carcinoma of
the cervix, which was positive for p16, indicating a HPV-driven
carcinoma.

The patient was seen by Dr. ___ on ___ and the
pelvic exam revealed a large (7-8cm) tumor at the vaginal apex
that was fixed to the left pelvic sidewall, confirming a 
clinical
stage IIIB. The patient then had two visits to the ED with
vaginal pain and vaginal bleeding. A PET-CT on ___
showed a FDG-avid mass in the upper vagina, cervix and lower
uterus, and FDG-avid enlarged left external iliac lymph node,
non-FDG avid mediastinal LAD, diffuse BM signal slightly
asymmetric increased uptake in the left fourth rib, and a 3 mm
lung nodule. Given her worsening bleeding related anemia, she 
was
electively admitted to the hospital on ___ to received blood
transfusions and initiate radiation therapy. 

___ started pelvic RT with weekly carboplatin.
-___: Pelvic XRT
-___: Carboplatin AUC 2
-___: Carboplatin AUC 2
-___: Carboplatin AUC 2
-___: Carboplatin AUC 2

PAST MEDICAL AND SURGICAL HISTORY:
1.  Coronary artery disease status post drug-eluting stents x 2
to the mid RCA on ___.
2.  Hypercholesterolemia.
3.  Hypertension.
4.  GERD.
5.  CHF.
6.  Dilated cardiomyopathy with an ejection fraction of 25% on
___.
7.  Iron deficiency anemia.
8.  Diabetes type 2.
9.  Diabetic neuropathy.
10.  COPD/asthma with multiple ED visits and admissions.
11.  Chronic back pain.
12.  Panic attacks.
13.  Bilateral carpal tunnel syndrome.
14.  Restless legs syndrome.
15.  Abdominal hernias, status post at least nine surgeries in
the past at ___, requiring bowel resections on
two occasions and requiring wound VACs on the last two 
surgeries.
 These surgeries span from ___ to ___.
16.  C. diff colitis, status post vancomycin treatment in
___.

 
Social History:
___
Family History:
Denies family history of bleeding or clotting disorder. Denies 
family history of breast, uterine, ovarian, 
cervical, or colon cancer. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
Vitals: 117/60 73 18 (on vent) 100%
GENERAL: Extremely agitated taking very deep, fast breaths in 
respiratory distress. Leaning forward/tripodding.  
HEENT: Sclera anicteric, MMM, oropharynx clear. R pupil 5 mm, 
fixed. L pupil 3 mm reactive    
LUNGS: Moderate wheezing throughout but good air movement, 
mechanical breath sounds. all lung fields with air movement.
CV: Regular/tachycardic, normal S1 S2, no murmurs, rubs, gallops 
 
ABD: distended but soft and no obvious tenderness. Multiple 
surgical scars. 
EXT: Warm, well perfused, 2+ pulses, 1+ b/l edema.  
SKIN:  Multiple scars over all skin with no obvious infected 
areas. R antecubital area with resolving abscess with eschar 
with no warmth, redness, edema.
NEURO:  Extremely agitated but moving all four extremities with 
purpose. Pupil exam as above. Otherwise limited as pt is 
intubated.

DISCHARGE PHYSICAL EXAM:
========================
VS: 98.5PO 137/93 81 20 94%RA 
General: Awake, comfortable, NAD 
HEENT: Sclera anicteric, MMM, oropharynx clear, pupils minimally 
reactive R at 5mm, L at 3mm.
Neck: Supple, JVP not elevated, no LAD  
Lungs: Biblasilar crackles with diffuse wheezes.
CV: RRR, normal S1 + S2, III/VI systolic murmur at apex  
Abdomen: Obese, distended. Diffusely tender to light palpation 
in lower abdomen/pannus and back.  
Ext: Warm, well perfused, 2+ pulses, 3+ ___. Right PICC in place
SKIN:  Multiple scars on both upper extremities without evidence 
of underlying infection.
Neuro: AOx3. CN ___ intact. Left lower extremity weakness.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 09:20AM BLOOD WBC-13.8* RBC-2.45* Hgb-7.3* Hct-24.1* 
MCV-98 MCH-29.8 MCHC-30.3* RDW-20.5* RDWSD-73.0* Plt ___
___ 09:20AM BLOOD Neuts-84.2* Lymphs-5.7* Monos-7.8 
Eos-0.5* Baso-0.4 NRBC-0.2* Im ___ AbsNeut-11.61* 
AbsLymp-0.79* AbsMono-1.08* AbsEos-0.07 AbsBaso-0.05
___ 09:20AM BLOOD ___ PTT-30.7 ___
___ 09:20AM BLOOD Glucose-339* UreaN-39* Creat-1.6* Na-133 
K-4.7 Cl-92* HCO3-28 AnGap-18
___ 09:20AM BLOOD estGFR-Using this
___ 09:20AM BLOOD ALT-8 AST-14 AlkPhos-114* TotBili-0.3
___ 09:20AM BLOOD Lipase-18
___ 09:20AM BLOOD Albumin-3.1*
___ 09:40PM BLOOD Osmolal-300
___ 09:20AM BLOOD
___ 05:33PM BLOOD ___ pO2-49* pCO2-62* pH-7.34* 
calTCO2-35* Base XS-4
___ 09:41AM BLOOD Lactate-1.3

DISCHARGE/PERTINENT LABS:
=========================
___ 05:37AM BLOOD WBC-11.8* RBC-2.59* Hgb-7.7* Hct-25.8* 
MCV-100* MCH-29.7 MCHC-29.8* RDW-18.1* RDWSD-66.2* Plt ___
___ 09:30AM BLOOD WBC-13.2* RBC-2.61* Hgb-7.6* Hct-25.6* 
MCV-98 MCH-29.1 MCHC-29.7* RDW-19.5* RDWSD-69.0* Plt ___
___ 09:30AM BLOOD Neuts-84.8* Lymphs-3.8* Monos-8.2 Eos-1.7 
Baso-0.4 Im ___ AbsNeut-11.20* AbsLymp-0.50* AbsMono-1.08* 
AbsEos-0.23 AbsBaso-0.05
___ 05:37AM BLOOD Glucose-127* UreaN-39* Creat-1.8* Na-130* 
K-4.6 Cl-94* HCO3-27 AnGap-14
___ 05:37AM BLOOD Glucose-127* UreaN-39* Creat-1.8* Na-130* 
K-4.6 Cl-94* HCO3-27 AnGap-14
___ 05:37AM BLOOD Calcium-8.8 Phos-4.5 Mg-1.9

MICROBIOLOGY:
=============
___ 9:20 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE. 
         OF THREE COLONIAL MORPHOLOGIES. 
         Isolated from only one set in the previous five days. 
         SENSITIVITIES PERFORMED ON REQUEST.. 

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN CLUSTERS. 
      Reported to and read back by ___ ON ___, 14:08. 

___ 2:35 pm URINE      SOURCE: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 5:24 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 5:14 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 4:30 am SPUTUM      Source: Endotracheal. 

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Preliminary):    NO GROWTH

___ 5:58 am BLOOD CULTURE      Source: Line-PICC. 

   Blood Culture, Routine (Pending): 

IMAGING:
========
CXR ___: 
There is moderate enlargement of the cardiac silhouette. 
Mediastinal contours are unremarkable. There is central 
pulmonary vascular engorgement. No definite focal consolidation 
is seen to suggest pneumonia. There is no large pleural effusion 
or pneumothorax.

HEAD CT (NON-CONTRAST) ___: Motion limited examination. 11 x 11 
mm hemorrhagic lesion in the right frontal lobe, likely 
corresponds to a finding seen on MRI from ___, although 
direct comparison is difficult due to differences in modality 
and patient position. Multiple additional lesions previously 
identified on MRI not well seen on the current study.  

CT A/P/C ___: 
1. Limited evaluation for pulmonary emboli given poor bolus 
timing.  
2. Background pulmonary edema with multifocal consolidative 
opacities in the lungs concerning for infection.  
3. Increasing bilateral hydroureteronephrosis, particularly on 
the left, likely caused by a soft tissue density in stranding in 
the retroperitoneum, concerning for tumor extension.  
4. Unchanged large ventral hernia. Fluid within the hernia 
defect and  
associated skin thickening, as seen previously could be due to 
anasarca of versus cellulitis.  
5. Unchanged appearance of hypodense cervical lesion, presumed 
to be the primary malignancy.  
6. Enlarged retroperitoneal and mediastinal lymphadenopathy.

CXR ___:
Previously seen ET tube and transesophageal tubes have been 
removed. Mild 
pulmonary edema has decreased.  Small right pleural effusion 
appears more 
conspicuous than before, but the positional differences from the 
prior study limits comparison.  Enlarged cardiac silhouette is 
similar to before. 

 
Brief Hospital Course:
Ms. ___ is a ___ F PMHx of stage III cervical cancer 
diagnosed in ___ s/p chemoradiation, HFrEF (EF 45% improved 
from 25% prior), CAD s/p RCA ___ 2 (___), who presented 
with fever and AMS and was found to have mitral valve 
endocarditis secondary to MSSA septicemia w/ perforated mitral 
valve and septic emboli to the brain. Hospital course was 
complicated by ___, and worsening sCHF.

# Respiratory distress: Initially feeling very short of breath 
but initial CXR did not show major abnormalities. CT chest 
showed b/l pulmonary edema as well as areas concerning for 
pneumonia. Patient had been recently discharged AMA from the 
hospital on ___ and reportedly (from nursing report) found 
at the airport with a needle in her arm concerning for drug use, 
and was not allowed on the airplane due to somnolence, so 
aspiration possible. Intubated immediately on arrival due to 
respiratory distress, placed on CMV mode. CT chest with contrast 
was not able to determine if PE was present due to timing of 
contrast load but heparin not possible in this patient with 
known brain bleed. She also appeared quite anxious on arrival to 
the ICU which might have contributed to her respiratory 
distress. She was treated with Vancomycin and Cefepime for HCAP 
and with dilaudid for her cancer pain and mannitol for increased 
ICP with right pupillary dilation. Patient was intubated on 
arrival to the MICU due to somnolence and poor airway 
protection. She then self-extubated on ___ after lightening of 
sedation later in the day and was found to have stable 
respiratory function, and was subsequently transferred to the 
floor. The patient continue to require on and off oxygen for the 
first 2 days on the floor. She subsequently improved with 
continued diuresis and was breathing comfortably on room air. 
She is being discharged on Bumex BID to maintain euvolemia.

# Mitral Valve Infective Endocarditis/MSSA Septicemia: Recent 
admission for MSSA endocarditis c/b septic emboli to the brain 
and perforation of mitral valve. Discharged AMA and received 2 
days worth of Linezolid PO and ciprofloxacin to cover her until 
she sought medical care. On readmission, patient was restarted 
on cefepime with additional coverage with Vancomycin for 6 days. 
Patient will require cefepime 1g q12h with and end date of 
___ and outpatient ID follow-up as previously scheduled.

# HFrEF/Acute on Chronic Systolic Heart Failure:  Patient with 
ischemic cardiomyopathy with DES x2 placed to RCA in ___. 
TTE ___ with EF=45%. New mitral regurgitation ___ valve 
perforation in the setting of MSSA bacteremia likely causing 
decompensation with worsening ___ and pulmonary edema. Dependent 
on IV diuresis while in the hospital. Failed Torsemide 100mg PO 
BID trial during prior admission. During this hospitalization, 
on Metoprolol 25mg TID, Hydralazine 75 mg PO/NG Q8H & Isosorbide 
Mononitrate 20 mg PO BID. Was receiving 120mg IV of Lasix daily 
for diuresis. Had significant ___ and minimal bibasilar crackles 
on exam. Requires continuous diuresis given the risk of 
worsening pulmonary edema. Switched to Bumetanide 2mg PO BID 
prior to discharge. 

# Goals of Care: Patient has stage III cervical cancer with CT 
abdomen pelvis showing diffuse LAD concerning for progression. 
S/p Chemo/XRT with persistent disease. No further treatment 
possible at this time, oncology recommended hospice care given 
prognosis is very poor ~6 months. Palliative care followed on 
last admission. Patient attempted to leave ___ and move to a 
care facility in ___ to
be closer to her brother. However, this proved difficult in face 
of decompensated clinical state. Patient was full code during 
prior admission, but has expressed wishes to be DNR/Okay to 
intubate. Patient was also amenable to the idea of hospice care 
during this admission. She is excited about leaving the hospital 
and getting transferred to a ___ with hospice care.

# Hemorrhagic brain lesion with vasogenic edema: 11 mm x 11 mm 
frontal brain lesion seen prior likely related to septic emboli. 
Pt also had a fall on ___ after leaving the hospital. On 
admission, R pupil 5 mm fixed, L pupil 3 mm and reactive. Per 
NSG no surgical intervention needed, was given mannitol and 
improved. On follow-up exam, patient's pupils equally reactive. 
Had no new or worsening focal neurological dysfunction.

# Anemia: Pt found to have anemia persistently through last 
admission. ACD vs. GI blood loss in setting of guaiac positive 
stool on previous admission but no witnessed hematochezia or 
melena.Patient had no other signs of active bleeding. 2U of 
PRBCs and patient was maintained on Pantoprazole 40 mg PO q24. 
Hgb stable at 7.5-8.0 without acute drop. Did not require 
additional transfusions.

# ___: Creatinine up to 3.0 during recent admission, but 
improved to 1.5-1.8 during this admission. Likely to be new 
baseline. Thought to be ___ a combination of ATN from sepsis as 
well as postrenal from obstruction from metastatic lesions. 
Urology was consulted during recent admission and recommended no 
need for stenting due to stability of creatinine and poor 
prognosis. Creatinine, lytes, and UOP and weight
Held home lisinopril and fluids in setting of ongoing CHF 
exacerbation.  

# Chronic Pain: Patient suffers of chronic pain in the setting 
of extensive
cervical cancer. 

# Stage III Cervical Cancer:  Completed radiosensitizing 
chemotherapy with a total of 4 infusions of carboplatin AUC 2 on 
___. Was planned to have interstitial implant scheduled for ___ 
but patient decided not to pursue this treatment at this time. 
Cancer prognosis poor given retroperitoneal spread on abdominal 
CT. Plan for no further treatment at this time with hospice 
care.
 
# C. difficile positive stool: The patient was found to be C. 
Diff positive in the setting of prolonged antibiotics during 
last admission. Started on PO vancomycin. Diarrhea resolved and 
no signs of active colitis based on abdominal CT. Continued 
vancomycin 125 mg PO QID. Should continue until 2 weeks after 
completion of antibiotics (___).

# CAD: Patient is s/p ___ 2 to RCA. Asymptomatic and stable. 
Aspirin 81 mg daily, Atorvastatin 80 mg daily, Metoprolol 75mg 
XL daily with holding parameters.

# Pericardial Effusion  Very small pericardial effusion seen on 
last admission that appears circumferential, with no 
echocardiographic signs of tamponade. No intervention needed at 
this time.
 
# DM2: History of DM2 c/b peripheral neuropathy. Insulin dose 
adjusted at last admission. Lower dose of glargine 20 units QHS 
in setting of not eating and Humalog SSI. Holding glimepiride 4 
mg BID and metformin. Continued Gabapentin 700 mg PO TID.

# Chronic Hyponatremia: As low as 120 on last admission. Stable 
at 130-133 this admission. Improved with 1.5-2L fluid 
restriction.

***TRANSITIONAL ISSUES***
# Patient needs continued treatment of MSSA bacteremia with 
Cefepime 1g q12h until ___. Follow-up with infectious 
disease on ___
# Given history of C. difficile, continue PO Vancomycin Oral 
Liquid ___ mg PO Q6H, until ___ (2 weeks after last dose of 
cefepime).
# Per neurology recs, requires a follow-up MRI for septic brain 
lesions in 1 week. Given pt is being discharged with hospice 
care, consider further evaluation pending patient's clinical 
status while at nursing facility.
# Discharge weight 271.6 lb
# Discharge creatinine 1.8
# Code Status: DNR/Okay to intubate
# Contact: ___ (HCP) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO QHS 
2. Ferrous Sulfate 325 mg PO DAILY 
3. FoLIC Acid 1 mg PO DAILY 
4. Gabapentin 800 mg PO TID 
5. HYDROmorphone (Dilaudid) 4 mg PO Q3H:PRN pain 
6. Metoprolol Succinate XL 75 mg PO DAILY 
7. Clotrimazole Cream 1 Appl TP BID:PRN gunal rash  
8. glimepiride 4 mg ORAL BID 
9. OxyCODONE SR (OxyconTIN) 20 mg PO DAILY 
10. OxyCODONE SR (OxyconTIN) 20 mg PO DAILY 
11. OxyCODONE SR (OxyconTIN) 10 mg PO DAILY 
12. Sertraline 50 mg PO DAILY 
13. Vancomycin Oral Liquid ___ mg PO Q6H 
14. HydrALAZINE 75 mg PO TID 
15. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
16. Aspirin 81 mg PO DAILY 
17. HYDROmorphone (Dilaudid) 8 mg PO ONCE 
18. Linezolid ___ mg PO Q12H 
19. Ciprofloxacin HCl 500 mg PO Q12H 
20. Albuterol Inhaler 1 PUFF IH Q6H:PRN SOB, Wheezing 
21. Pantoprazole 40 mg PO Q24H 
22. Tiotropium Bromide 1 CAP IH DAILY 
23. Acetaminophen 1000 mg PO Q8H 

 
Discharge Medications:
1.  Bumetanide 2 mg PO BID  
2.  CefePIME 1 g IV Q12H  
3.  Methadone (Oral Solution)  2 mg/1 mL 10 mg PO TID 
RX *methadone 10 mg 1 tablet by mouth three times a day Disp 
#*21 Tablet Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY  
5.  Vancomycin Oral Liquid ___ mg PO Q6H 
RX *vancomycin [Vancocin] 125 mg 1 capsule(s) by mouth every 6 
hours Disp #*84 Capsule Refills:*0 
6.  HYDROmorphone (Dilaudid) ___ mg PO Q3H 
RX *hydromorphone 8 mg 1 tablet(s) by mouth Q4H for pain Disp 
#*20 Tablet Refills:*0 
7.  Acetaminophen 1000 mg PO Q8H  
8.  Albuterol Inhaler 1 PUFF IH Q6H:PRN SOB, Wheezing  
9.  Aspirin 81 mg PO DAILY  
10.  Atorvastatin 80 mg PO QHS  
11.  Clotrimazole Cream 1 Appl TP BID:PRN gunal rash   
12.  Ferrous Sulfate 325 mg PO DAILY  
13.  FoLIC Acid 1 mg PO DAILY  
14.  Gabapentin 800 mg PO TID  
15.  glimepiride 4 mg ORAL BID  
16.  HydrALAZINE 75 mg PO TID  
17.  Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY  
18.  Metoprolol Succinate XL 75 mg PO DAILY  
19.  Pantoprazole 40 mg PO Q24H  
20.  Sertraline 50 mg PO DAILY  
21.  Tiotropium Bromide 1 CAP IH DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Pulmonary Edema
MSSA Endocarditis

SECONDARY DIAGNOSES
Brain abscesses
Stage III cervical cancer
Systolic congestive heart failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you. You were admitted to the 
___ because you were short of 
breath. You were found to have fluid in your lungs because of 
your heart failure and the perforation in your heart valve. You 
were intubated shortly, and we gave you IV diuretics and 
antibiotics. 

You are being discharged to a skilled nursing facility that will 
be able to manage your antibiotics and your pain medications.

We wish you a speedy recovery,
Your ___ Care Team
 
Followup Instructions:
___